2196-02-27 09:02:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 EKG - At [**2196-2-26**] 06:49 PM
   Unable to lie in bed. Sitting on edge of bed overnight. Transfused 4
   units with bump in Hct.
   Upper endoscopy planned for Monday
   Afebrile overnight.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2196-2-27**] 08:26 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-2-27**] 08:00 AM
   Furosemide (Lasix) - [**2196-2-27**] 08:27 AM
   Other medications:
   singulair, spiriva, lasix, amlodipine, lisinopril, levoflox,
   ceftriaxone, flovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-27**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 101 (93 - 110) bpm
   BP: 134/64(81) {124/57(76) - 153/71(89)} mmHg
   RR: 27 (18 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 55 Inch
           Total In:
                                                                    551 mL
                                                                    620 mL
   PO:
           TF:
   IVF:
   67 mL
   Blood products:
                                                                    551 mL
                                                                    433 mL
   Total out:
                                                                  2,110 mL
                                                                  1,550 mL
   Urine:
                                                                  2,110 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,559 mL
                                                                   -930 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///42/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : diminished)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Chronic venous stasis changes
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to):  X3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.0 g/dL
   90 K/uL
   120 mg/dL
   0.9 mg/dL
   42 mEq/L
   4.8 mEq/L
   18 mg/dL
   91 mEq/L
   140 mEq/L
   22.2 %
   3.1 K/uL
        [image002.jpg]
                             [**2196-2-26**]  08:44 PM
                             [**2196-2-27**]  12:15 AM
                             [**2196-2-27**]  04:54 AM
   WBC
   2.9
   3.1
   Hct
   20.7
   23.2
   22.2
   Plt
   77
   90
   Cr
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   120
   Other labs: CK / CKMB / Troponin-T:59/3/<0.01, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Plan:
   #COPD exacerbation: Likely secondary to viral illness due to low
   temperature, no leukocytosis and duration of onset. Patient appears
   comfortable now on 4L NC. Gram stain shows OP organisms only.
   -F/U sputum culture
   -Continue albuterol nebs, home Advair diskus, Spiriva, and leukotriene
   inhibitor. No need for steroids.
   -Continue Levaquin and Ceftriaxone for now. Will D/C once cultures come
   back
   -Continue Lasix for diuresis
   #Anemia: Current HcT of 22.2 is not appropriate after 3 units of blood.
   Likely secondary to GI bleeding as stool was guiac positive and no
   other signs/symptoms of bleeding are evident.
   -Will give another unit. Goal of Hct > 30%
   -Monitor crit q 8 hours
   -Appreciate GI consult. They prefer to perform the EGD on Monday in the
   endoscopy suite under MAC anesthesia due to the patient
s body habitus.
   Will see her this morning to leave a full consult with recommendations.
   #Abdominal pain: Likely a peptic ulcer, as patient has had this in the
   past and would explain anemia.
   -Continue PPI
   -EGD as above.
   #CHF- Last echo in [**2193**]:
   IMPRESSION: Symmetric LVH with preserved biventricular global and
   regional systolic function. Mild aortic stenosis.
   Compared with the prior study (images reviewed) of [**2193-1-14**], mild
   aortic stenosis is now more definitely shown. Pulmonary hypertension is
   no longer appreciated. The other findings appear similar."
   -Lasix as above
   -Continue amlodipine and lisinopril.
   .
   #OSA: Likely Obesity hypoventilation syndrome. Would benefit from sleep
   study as an outpatient, but will titrate autoset CPAP during ICU stay.
   -OOB to chair as tolerated
   #Thrombocytopenia: Has been in the low 100's for years, but 90 today.
   Has not been on heparin products, or other drugs which induce
   thrombocytopenia. Unlikely to be HIT. Could be ITP, or related to
   anemia of chronic disease.
   -Will continue to monitor
   -Antiplatelet ab pending
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2196-2-26**] 03:30 PM
   18 Gauge - [**2196-2-27**] 08:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2196-02-28 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GI Bleed
   24 Hour Events:
   - GI recs:  Patient declined scope, wants conservative management.
   Goal hct 30, needs qmonthly hct at home and GI follow up here in fellow
   clinic
   - serial hct 23--->26--->26, got one unit pRBC overnight
   - placed on CPAP overnight as she desated to 70's while sleeping
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2196-2-27**] 08:26 AM
   Levofloxacin - [**2196-2-27**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2196-2-27**] 08:27 AM
   Pantoprazole (Protonix) - [**2196-2-27**] 07:40 PM
   Lorazepam (Ativan) - [**2196-2-28**] 01:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-28**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 83 (83 - 109) bpm
   BP: 131/27(77) {97/27(55) - 134/91(96)} mmHg
   RR: 17 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
                  Total In:
                                                                    804 mL
                                                                    225 mL
   PO:
                  TF:
   IVF:
                                                                     77 mL
   Blood products:
                                                                    607 mL
                                                                    225 mL
   Total out:
                                                                  2,540 mL
                                                                    150 mL
   Urine:
                                                                  2,540 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,736 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///43/
   Physical Examination
   Gen: Increased work of breathing, but alert and oriented x3
   HEENT: Oral mucosa wet and pink. No JVD. No lymphadenopathy
   CV: Regular rate and rhythm. Grade IV systolic ejection murmur,
   unchanged since yesterday. No rubs or gallops
   Lungs: Clear to auscultation bilaterally. Minimal expiratory wheezes
   bilaterally. No rales or rhonchi
   Abdomen: Soft, nontender, nondistended, no masses. Bowel sounds active.
   Extremities: Warm with 2+ pitting edema bilaterally. Icthyosis noted.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Skin:  No ecchymoses or other lesions noted except icthyosis as above.
   Neurologic: Responds to: Voice, Movement: Spontaneous, Tone: Good
   Labs / Radiology
   101 K/uL
   8.5 g/dL
   94 mg/dL
   1.0 mg/dL
   43 mEq/L
   3.9 mEq/L
   21 mg/dL
   90 mEq/L
   139 mEq/L
   27.8 %
   4.4 K/uL
        [image002.jpg]
                             [**2196-2-26**]  08:44 PM
                             [**2196-2-27**]  12:15 AM
                             [**2196-2-27**]  04:54 AM
                             [**2196-2-27**]  01:27 PM
                             [**2196-2-27**]  06:46 PM
                             [**2196-2-28**]  04:15 AM
   WBC
   2.9
   3.1
   4.4
   Hct
   20.7
   23.2
   22.2
   26.3
   26.8
   27.8
   Plt
   77
   90
   101
   Cr
   0.9
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   120
   94
   Other labs: PT / PTT / INR:14.2/25.0/1.2, CK / CKMB /
   Troponin-T:59/3/<0.01, ALT / AST:[**1-25**], Alk Phos / T Bili:64/0.8,
   Albumin:3.6 g/dL, LDH:178 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   This is a 63 year-old female with a history of COPD who presents with
   dyspnea and cough x3 days, who responded to nebulizer treatments in the
   ED. Most likely diagnosis is a COPD exacerbation secondary to a viral
   illness, but pneumonia or CHF exacerbation are also in the
   differential.
   #COPD exacerbation: Likely secondary to viral illness due to low
   temperature, no leukocytosis and duration of onset. Patient appears
   comfortable now on 4L NC. Gram stain shows OP organisms only.
   -F/U sputum culture
   -Continue albuterol nebs, home Advair diskus, Ipratroprium, and
   leukotriene inhibitor. No need for steroids.
   -Will narrow coverage down to Levaquin 7 day total course and d/c
   Ceftriaxone for now.
    -Continue Lasix for diuresis
   #Anemia: Current HcT of 22.2 is not appropriate after 3 units of blood.
   Likely secondary to GI bleeding as stool was guiac positive and no
   other signs/symptoms of bleeding are evident.
   -Will give another unit. Goal of Hct > 30%
   -Monitor crit q 8 hours
   -Appreciate GI consult. They prefer to perform the EGD on Monday in the
   endoscopy suite under MAC anesthesia due to the patient
s body habitus.
   Will see her this morning to leave a full consult with recommendations.
    #Abdominal pain: Likely a peptic ulcer, as patient has had this in the
   past and would explain anemia.
   -Continue PPI
   -EGD as above.
    #CHF: Patient has a lot of peripheral edema. Last echo in [**2193**]:
   IMPRESSION: Symmetric LVH with preserved biventricular global and
   regional systolic function. Mild aortic stenosis.
   Compared with the prior study (images reviewed) of [**2193-1-14**], mild
   aortic stenosis is now more definitely shown. Pulmonary hypertension is
   no longer appreciated. The other findings appear similar."
   -Lasix as above
   -Continue amlodipine and lisinopril.
    #OSA: Likely obesity hypoventilation syndrome. Patient did not
   tolerate CPAP overnight. Would benefit from sleep study as an
   outpatient
   - Will try cardiac chair for sleep, OOB
   -OOB to chair as tolerated
   -Will switch pt to BiPAP
   #Thrombocytopenia: Has been in the low 100's for years, but 90 today.
   Has not been on heparin products, or other drugs which induce
   thrombocytopenia. Unlikely to be HIT. Could be ITP, or related to
   anemia of chronic disease.
   -Will continue to monitor
   -Antiplatelet ab pending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-2-26**] 03:30 PM
   18 Gauge - [**2196-2-27**] 08:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-28 10:45:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Declined endoscopy
   Still transfusing to goal of 30
   Desat to 70's during sleep. Awoken and placed on autoset CPAP
   Guaiac pos stool
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2196-2-27**] 08:30 AM
   Ceftriaxone - [**2196-2-28**] 07:33 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2196-2-28**] 01:01 AM
   Pantoprazole (Protonix) - [**2196-2-28**] 07:33 AM
   Other medications:
   furosemide, amlodipine, lisinopril, levofloxacin, tiotropium,
   montelukast, Advair, xopenex, lorazepam
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-28**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 89 (83 - 109) bpm
   BP: 121/62(78) {97/27(55) - 131/91(96)} mmHg
   RR: 25 (16 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
           Total In:
                                                                    804 mL
                                                                    285 mL
   PO:
           TF:
   IVF:
                                                                     77 mL
                                                                     60 mL
   Blood products:
                                                                    607 mL
                                                                    225 mL
   Total out:
                                                                  2,540 mL
                                                                    250 mL
   Urine:
                                                                  2,540 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,736 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///43/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), III/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Wheezes : bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+, Chronic venous stasis changes
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Tactile
   stimuli, Oriented (to): x 3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   101 K/uL
   94 mg/dL
   1.0 mg/dL
   43 mEq/L
   3.9 mEq/L
   21 mg/dL
   90 mEq/L
   139 mEq/L
   27.8 %
   4.4 K/uL
        [image002.jpg]
                             [**2196-2-26**]  08:44 PM
                             [**2196-2-27**]  12:15 AM
                             [**2196-2-27**]  04:54 AM
                             [**2196-2-27**]  01:27 PM
                             [**2196-2-27**]  06:46 PM
                             [**2196-2-28**]  04:15 AM
   WBC
   2.9
   3.1
   4.4
   Hct
   20.7
   23.2
   22.2
   26.3
   26.8
   27.8
   Plt
   77
   90
   101
   Cr
   0.9
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   120
   94
   Other labs: PT / PTT / INR:14.2/25.0/1.2, CK / CKMB /
   Troponin-T:59/3/<0.01, ALT / AST:[**1-25**], Alk Phos / T Bili:64/0.8,
   Albumin:3.6 g/dL, LDH:178 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   Plan:
   #COPD exacerbation: Likely secondary to viral illness due to low
   temperature, no leukocytosis and duration of onset. Patient appears
   comfortable now on 4L NC.
   -F/U sputum culture
   -Continue albuterol nebs, home Advair diskus, Spiriva, and leukotriene
   inhibitor. No need for steroids.
   -Continue Levaquin and d/c Ceftriaxone
   -Continue Lasix for diuresis
   #Anemia: GI bleeding as stool was guiac positive and no other
   signs/symptoms of bleeding are evident.
   -Will give another unit. Goal of Hct > 30%
   -Monitor crit q 8 hours
   -Patient refusing EGD
   #Abdominal pain: Likely a peptic ulcer, as patient has had this in the
   past and would explain anemia.
   -Continue PPI
   -EGD as above.
   #CHF- Last echo in [**2193**]:
   -Lasix as above
   -Continue amlodipine and lisinopril.
   .
   #OSA: Likely Obesity hypoventilation syndrome. Would benefit from sleep
   study as an outpatient, but will titrate autoset CPAP during ICU stay.
   -OOB to chair as tolerated
   #Thrombocytopenia: Has been in the low 100's for years, but 90 today.
   Has not been on heparin products, or other drugs which induce
   thrombocytopenia. Unlikely to be HIT. Could be ITP, or related to
   anemia of chronic disease.
   -Will continue to monitor
   -Antiplatelet ab pending
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2196-2-26**] 03:30 PM
   18 Gauge - [**2196-2-27**] 08:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2196-02-29 05:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Received 1u PRBC, Hct 27.8->30.3
   - Tachy to low 100, Furosemide dose held as pt has contraction
   alkalosis
   - Ceftriaxone d/c'd
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2196-2-27**] 08:30 AM
   Ceftriaxone - [**2196-2-28**] 07:33 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-2-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-29**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 92 (83 - 135) bpm
   BP: 101/54(76) {95/27(58) - 131/90(93)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
                  Total In:
                                                                  1,790 mL
                                                                    120 mL
   PO:
                                                                  1,230 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     60 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,435 mL
                                                                  1,020 mL
   Urine:
                                                                  1,435 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    355 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///46/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   8.9 g/dL
   97 mg/dL
   0.9 mg/dL
   46 mEq/L
   3.8 mEq/L
   16 mg/dL
   93 mEq/L
   139 mEq/L
   28.7 %
   4.0 K/uL
        [image002.jpg]
                             [**2196-2-26**]  08:44 PM
                             [**2196-2-27**]  12:15 AM
                             [**2196-2-27**]  04:54 AM
                             [**2196-2-27**]  01:27 PM
                             [**2196-2-27**]  06:46 PM
                             [**2196-2-28**]  04:15 AM
                             [**2196-2-28**]  06:35 PM
                             [**2196-2-29**]  01:43 AM
   WBC
   2.9
   3.1
   4.4
   4.0
   Hct
   20.7
   23.2
   22.2
   26.3
   26.8
   27.8
   30.3
   28.7
   Plt
   77
   90
   101
   105
   Cr
   0.9
   1.0
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   120
   94
   97
   Other labs: PT / PTT / INR:14.6/25.6/1.3, CK / CKMB /
   Troponin-T:59/3/<0.01, ALT / AST:[**1-25**], Alk Phos / T Bili:64/0.8,
   Differential-Neuts:58.5 %, Lymph:29.8 %, Mono:9.1 %, Eos:2.2 %,
   Albumin:3.6 g/dL, LDH:178 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   This is a 63 year-old female with a history of COPD who presents with
   dyspnea and cough x3 days, who responded to nebulizer treatments in the
   ED. Most likely diagnosis is a COPD exacerbation secondary to a viral
   illness, but pneumonia or CHF exacerbation are also in the
   differential.
   #COPD exacerbation: Likely secondary to viral illness due to low
   temperature, no leukocytosis and duration of onset. Patient appears
   comfortable now on 4L NC. Gram stain shows OP organisms only.
   -F/U sputum culture
   -Continue albuterol nebs, home Advair diskus, Ipratroprium, and
   leukotriene inhibitor. No need for steroids.
   -Will narrow coverage down to Levaquin 7 day total course and d/c
   Ceftriaxone for now.
    -Continue Lasix for diuresis
   #Anemia: Current HcT of 22.2 is not appropriate after 3 units of blood.
   Likely secondary to GI bleeding as stool was guiac positive and no
   other signs/symptoms of bleeding are evident.
   -Will give another unit. Goal of Hct > 30%
   -Monitor crit q 8 hours
   -Appreciate GI consult. They prefer to perform the EGD on Monday in the
   endoscopy suite under MAC anesthesia due to the patient
s body habitus.
   Will see her this morning to leave a full consult with recommendations.
    #Abdominal pain: Likely a peptic ulcer, as patient has had this in the
   past and would explain anemia.
   -Continue PPI
   -EGD as above.
    #CHF: Patient has a lot of peripheral edema. Last echo in [**2193**]:
   IMPRESSION: Symmetric LVH with preserved biventricular global and
   regional systolic function. Mild aortic stenosis.
   Compared with the prior study (images reviewed) of [**2193-1-14**], mild
   aortic stenosis is now more definitely shown. Pulmonary hypertension is
   no longer appreciated. The other findings appear similar."
   -Lasix as above
   -Continue amlodipine and lisinopril.
    #OSA: Likely obesity hypoventilation syndrome. Patient did not
   tolerate CPAP overnight. Would benefit from sleep study as an
   outpatient
   - Will try cardiac chair for sleep, OOB
   -OOB to chair as tolerated
   -Will switch pt to BiPAP
   #Thrombocytopenia: Has been in the low 100's for years, but 90 today.
   Has not been on heparin products, or other drugs which induce
   thrombocytopenia. Unlikely to be HIT. Could be ITP, or related to
   anemia of chronic disease.
   -Will continue to monitor
   -Antiplatelet ab pending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-2-27**] 08:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-29 10:15:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   COPD with Acute Exacerbation
   Anemia-_Secondary to Blood loss
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   6 units PRBC given over night
   Lasix 40mg/d given to aid with volume overload in the setting of
   respiratory distress
   CTX
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2196-2-27**] 08:30 AM
   Ceftriaxone - [**2196-2-28**] 07:33 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-2-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2196-2-29**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.4
   HR: 83 (81 - 135) bpm
   BP: 104/57(68) {95/47(58) - 128/90(93)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
                  Total In:
                                                                  1,790 mL
                                                                    120 mL
   PO:
                                                                  1,230 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     60 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,435 mL
                                                                  1,440 mL
   Urine:
                                                                  1,435 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    355 mL
                                                                 -1,320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///46/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Wheezes : , Diminished: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Place, Time, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.9 g/dL
   105 K/uL
   97 mg/dL
   0.9 mg/dL
   46 mEq/L
   3.8 mEq/L
   16 mg/dL
   93 mEq/L
   139 mEq/L
   28.7 %
   4.0 K/uL
        [image002.jpg]
                             [**2196-2-26**]  08:44 PM
                             [**2196-2-27**]  12:15 AM
                             [**2196-2-27**]  04:54 AM
                             [**2196-2-27**]  01:27 PM
                             [**2196-2-27**]  06:46 PM
                             [**2196-2-28**]  04:15 AM
                             [**2196-2-28**]  06:35 PM
                             [**2196-2-29**]  01:43 AM
   WBC
   2.9
   3.1
   4.4
   4.0
   Hct
   20.7
   23.2
   22.2
   26.3
   26.8
   27.8
   30.3
   28.7
   Plt
   77
   90
   101
   105
   Cr
   0.9
   1.0
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   120
   94
   97
   Other labs: PT / PTT / INR:14.6/25.6/1.3, CK / CKMB /
   Troponin-T:59/3/<0.01, ALT / AST:[**1-25**], Alk Phos / T Bili:64/0.8,
   Differential-Neuts:58.5 %, Lymph:29.8 %, Mono:9.1 %, Eos:2.2 %,
   Albumin:3.6 g/dL, LDH:178 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Imaging: no new images today
   Microbiology: Sputum--Oral Flora
   Assessment and Plan
   63 yo female with hisotry of COPD and found to have melena and blood
   loss anemia leading to ICU admission.  Her initial admission was in the
   setting of respiratory distress and felt to have both obstructive
   source of respiratory distress but also with concern raised for
   hydrostatic pulmonary edema.
   Her presentation is mixed
she has initial presentation with respiratory
   distress.  This was felt to be related to possible pneumonia based upon
   cough (white sputum and possible infiltrate on poor quality X-ray).
   There have been issues raised as to possible hydrostatic pulmlonary
   edema
this was in the setting of orthopnea and Aortic Stenosis (mild in
   past) and significant volume load with PRBC
s needed.  The argument for
   acute exacerbation with her chronic obstructive pulmonary disease is
   based only upon transient dyspnea.  This leads likely transient
   pulmonary edema in the setting of volume load with PRBC
s given and now
   resolved with diuresis she likely has returned to a chronic baseline
   compromise with restrictive ventilatory defect.
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   -FeSO4
   -EGD defered based upon GI and patient input given relative risks of
   procedure vs conservative management
   -HCT goal of 24 or for acute loss
   -HCT q 8 hours
   -PPI [**Hospital1 **]
 Respiratory Failure-See discussion above
   -Lasix to return to home dosing
   -Will need CPAP titration for night-time use
   -Would consider continued night in unit for treatment
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2196-03-01 11:06:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   Anemia Secondary to Blood Loss
   Atrial Fibrillation
   respiratory Distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2196-2-29**] 03:30 PM
   -Negative fluid balance of 5 liters over hospitalization
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2196-2-28**] 07:33 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-1**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 86 (83 - 130) bpm
   BP: 96/49(61) {91/44(59) - 128/69(78)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
                  Total In:
                                                                  1,460 mL
                                                                    540 mL
   PO:
                                                                    960 mL
                                                                    540 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  3,945 mL
                                                                  1,400 mL
   Urine:
                                                                  3,945 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,485 mL
                                                                   -860 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///44/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   94 K/uL
   94 mg/dL
   0.9 mg/dL
   44 mEq/L
   3.4 mEq/L
   17 mg/dL
   94 mEq/L
   141 mEq/L
   27.6 %
   3.4 K/uL
        [image002.jpg]
                             [**2196-2-26**]  08:44 PM
                             [**2196-2-27**]  12:15 AM
                             [**2196-2-27**]  04:54 AM
                             [**2196-2-27**]  01:27 PM
                             [**2196-2-27**]  06:46 PM
                             [**2196-2-28**]  04:15 AM
                             [**2196-2-28**]  06:35 PM
                             [**2196-2-29**]  01:43 AM
                             [**2196-2-29**]  11:21 PM
                             [**2196-3-1**]  05:00 AM
   WBC
   2.9
   3.1
   4.4
   4.0
   3.4
   Hct
   20.7
   23.2
   22.2
   26.3
   26.8
   27.8
   30.3
   28.7
   27.4
   27.6
   Plt
   77
   90
   101
   105
   94
   Cr
   0.9
   1.0
   0.9
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   120
   94
   97
   94
   Other labs: PT / PTT / INR:14.5/25.5/1.3, CK / CKMB /
   Troponin-T:59/3/<0.01, ALT / AST:[**1-25**], Alk Phos / T Bili:64/0.8,
   Differential-Neuts:58.5 %, Lymph:29.8 %, Mono:9.1 %, Eos:2.2 %,
   Albumin:3.6 g/dL, LDH:178 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   ECG: ECG--Patient with ECG with atrial flutter and some intermittent
   irregularly irregular rhythm consisten with atrial fibrillation
   Assessment and Plan
   63 yo female with admission with GIB and in the setting of volume/PRBC
   given she did evolve significant respiratory distress and wheezing.
   This has been responsive over time but has had now evolution of
   significant atrial fibrillation with relatively minimal stress.
 ATRIAL FIBRILLATION (AFIB)/Atrial Flutter
   -Lopressor [**Hospital1 **]
   -Will need to maintain rate control
   -Cardioversion not to be pursued given hemodynamic stability and risk
   for anticoagulation that would be
 Respiratory Distress-
   -Will D/C abx to course today
   -O2 to wean as tolerated
   -Will need to trial activity with PT
   -Continue with diuresis
   -Is concerning for significant PAH and RV compromise
   -Will need ECHO to continue to define source of respiratory compromise
   and likely significant component of RV compromise
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   -Pantoprazole
   -Follow up care to be dictated by GI and patient wishes for endoscopy
   -Will hold any anticoagulation given recent brisk bleeding
   Anemia Secondary to Blood Loss-
   -Continue Iron supplementation
   -HCT [**Hospital1 **]
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-2-29**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2196-03-02 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2196-3-1**] 03:45 PM
   - 5pm hct: 29.8
   - echo: LVEF 70%, mild LVH, aortic valve stenosis (area 1.0-1.2cm2),
   mod PAH.
   This am the patient states she has been having diarrhea and slight
   abdominal cramping.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2196-2-28**] 07:33 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-2**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 94 (81 - 103) bpm
   BP: 124/59(75) {95/23(53) - 142/70(107)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
                  Total In:
                                                                  1,080 mL
                  PO:
                                                                  1,080 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    240 mL
   Urine:
                                                                  2,250 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,170 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92% on 3 L NC
   ABG: ///45/
   Physical Examination
   Gen: Middle-aged female lying in bed in NAD
   HEENT: OP clear
   CV: RRR, 4/6 systolic ejection mumur present
   Lungs: CTAB
   Abdomen: + BS, soft NTND, obese
   Extremities: Warm with 2+ edema
   Peripheral Vascular: 2+ DP
   Skin:  Venous stasis dermatitis and licenification in her b/l lower
   extremities
   Neurologic: Alert and appropriate
   Labs / Radiology
   99 K/uL
   8.7 g/dL
   103 mg/dL
   0.9 mg/dL
   45 mEq/L
   3.8 mEq/L
   16 mg/dL
   94 mEq/L
   141 mEq/L
   28.8 %
   2.8 K/uL
        [image002.jpg]
                             [**2196-2-27**]  04:54 AM
                             [**2196-2-27**]  01:27 PM
                             [**2196-2-27**]  06:46 PM
                             [**2196-2-28**]  04:15 AM
                             [**2196-2-28**]  06:35 PM
                             [**2196-2-29**]  01:43 AM
                             [**2196-2-29**]  11:21 PM
                             [**2196-3-1**]  05:00 AM
                             [**2196-3-1**]  05:12 PM
                             [**2196-3-2**]  03:52 AM
   WBC
   3.1
   4.4
   4.0
   3.4
   2.8
   Hct
   22.2
   26.3
   26.8
   27.8
   30.3
   28.7
   27.4
   27.6
   29.8
   28.8
   Plt
   90
   101
   105
   94
   99
   Cr
   0.9
   1.0
   0.9
   0.9
   0.9
   TropT
   <0.01
   Glucose
   120
   94
   97
   94
   103
   Other labs: PT / PTT / INR:14.3/25.9/1.2, CK / CKMB /
   Troponin-T:59/3/<0.01, ALT / AST:[**1-25**], Alk Phos / T Bili:64/0.8,
   Differential-Neuts:58.5 %, Lymph:29.8 %, Mono:9.1 %, Eos:2.2 %,
   Albumin:3.6 g/dL, LDH:178 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.7
   mg/dL
   [1][**2196-2-29**]
   SEROLOGY/BLOOD
   HELICOBACTER PYLORI ANTIBODY TEST-PENDING
   INPATIENT
   [2][**2196-2-26**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [3][**2196-2-26**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [4][**2196-2-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [5][**2196-2-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [6][**2196-2-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   63 year-old female with a history of COPD who presented with dyspnea
   and cough x3 days, likely a COPD exacerbation, also with afib w/RVR and
   a GI bleed.
   #COPD exacerbation/Dyspnea: Likely secondary to viral illness due to
   low temperature, no leukocytosis and duration of onset. Patient appears
   comfortable now and saturating 99% on 3L NC (her home oxygen level).
   Was started on a short course of steroids to augment home treatment.
   Gram stain and cultures show OP organisms only.  Patient finished a 5
   day course of levaquin on [**3-1**].
   -Continue albuterol nebs, home Advair diskus, Ipratroprium, and
   leukotriene inhibitor.
   -Lasix held after episode of a-fib, tachycardia, hypercarbia. Will
   re-start home dose of 40mg PO daily once heart rate and rhythm
   stabilize.
   -Prednisone 40mg PO daily x 5 days (last day [**3-5**]).
   - Patient should have a pulmonary consult to fully evaluate her dyspea
   as she states it is not improving on the usual therapy which she
   receives for her COPD.
   - Her TTE yesterday showed moderate AS with a valve area between 1-1.2
   cm2, so her SOB is unlikely to be secondary to AS.  Moderate pulmonary
   hypertension was noted and the patient has a history of DVTs and could
   have chronic PEs, however she bled in the past on coumadin and recently
   had a GI bleed, so anticoagulation would be contraindicated currently.
   #Atrial fibrillation: Patient now in sinus.  Her a.fib was likely
   secondary to volume depletion. Currently
6.8 L for LOS. Home Lasix
   dose was stopped as she is persistently negative.  She was negative 1 L
   yesterday without lasix.
   -Continue metoprolol 12.5mg PO daily and titrate to keep HR < 90
   -Lasix held to prevent further volume depletion
   -Fluid boluses PRN HR > 100 or SBP <90
   -Continue telemetry
   - Holding anticoagulation given recent GI bleed.  Could consider
   starting ASA once out of the acute setting.
   #Anemia: Current Hct of 28.8, stable.  Patient had received 6 units of
   blood earlier in her hospitalization.  Likely secondary to GI bleeding
   as stool was guaiac positive and no other signs/symptoms of bleeding
   are evident. Patient may be iron-deficient with low MCV (78), although
   TIBC is high-normal and serum ferritin is normal.  Recent stool has not
   been guaiac positive.  Goal Hct > 25.
   -Monitor crit q day
   -Iron supplementation started at 325mg PO daily.
   -Continue PPI 40 mg [**Hospital1 **]
   -Appreciate GI consult. Will not perform endoscopy per patient
   wishes. Patient is poor candidate for intubation. Serial Hct
s q month
   at home once discharged.
   #Fatigue/Decreased mobility: Patient complains of
not being the same
   person she was 8 days ago.
 She was able to walk across a room to a
   commode, but has not been able to do so since her illness began. Likely
   due to COPD exacerbation, but may also be decompensated CHF, or poor
   sleep due to ICU stay or obesity hyperventilation/OSA.
   -PT consult
    #Abdominal pain/diarrhea: Likely a peptic ulcer, as patient has had
   this in the past and would explain anemia.  Could also be due to C.diff
   in the setting of recent diarrhea.
   -Continue PPI [**Hospital1 **]
   - Will check for C.diff
   -F/U H. pylori ab
   -Appreciate GI recommendations as above.
    # Chronic diastolic CHF: Patient had a TTE yesterday which showed a
   normal EF and moderate AS (valve area of [**2-4**].2 cm2).  Also mod plum
   hypertension.  Amlodipine was discontinued as beta blocker has been
   started and pressures have been stable in the 110
s systolic.
   -Holding Lasix for now due to negative fluid balance and atrial
   fibrillation with rapid ventricular rate.
   -Continue lisinopril and metoprolol.
    #OSA: Likely obesity hypoventilation syndrome. Patient did not
   tolerate BiPap overnight. Would benefit from sleep study as an
   outpatient
   -OOB to chair as tolerated
   -Will continue to try BiPap as inpatient, discuss with respiratory to
   determine optimal sleep settings, get sleep study as outpatient
   #Thrombocytopenia/Pancytopenia: 99 today and has been stable. Has been
   in the low 100's for years. Has not been on heparin products, or other
   drugs which induce thrombocytopenia. Unlikely to be HIT. Could be ITP,
   or related to anemia of chronic disease. Unlikely to be DIC as there
   are no signs or symptoms of thrombosis or hemorrhage. Haptoglobin
   normal at 134 mg/dL.  The patient has been pancytopenic chronically.
   -Will continue to monitor
   -Antiplatelet ab pending
   - Consider heme f/u as an outpatient for workup of chronic
   pancytopenia.
   ICU Care
   Nutrition: Regular cardiac diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-2-29**] 05:45 PM
   Prophylaxis:
   DVT: pneumoboots (no SQH given thrombocytopenia)
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to the floor today
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);

2196-03-02 10:47:00 Physician Attending Progress Note
Chief Complaint: Gi Bleed
   Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2196-3-1**] 03:45 PM
   -1.2cm AV area
   -PASP increased to 47
   -BIPAP worn for 5 hours last pm
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2196-3-2**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 92 (81 - 103) bpm
   BP: 135/50(22) {95/23(22) - 142/70(107)} mmHg
   RR: 23 (16 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
                  Total In:
                                                                  1,080 mL
                                                                    240 mL
   PO:
                                                                  1,080 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    540 mL
   Urine:
                                                                  2,250 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,170 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///45/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   99 K/uL
   103 mg/dL
   0.9 mg/dL
   45 mEq/L
   3.8 mEq/L
   16 mg/dL
   94 mEq/L
   141 mEq/L
   28.8 %
   2.8 K/uL
        [image002.jpg]
                             [**2196-2-27**]  04:54 AM
                             [**2196-2-27**]  01:27 PM
                             [**2196-2-27**]  06:46 PM
                             [**2196-2-28**]  04:15 AM
                             [**2196-2-28**]  06:35 PM
                             [**2196-2-29**]  01:43 AM
                             [**2196-2-29**]  11:21 PM
                             [**2196-3-1**]  05:00 AM
                             [**2196-3-1**]  05:12 PM
                             [**2196-3-2**]  03:52 AM
   WBC
   3.1
   4.4
   4.0
   3.4
   2.8
   Hct
   22.2
   26.3
   26.8
   27.8
   30.3
   28.7
   27.4
   27.6
   29.8
   28.8
   Plt
   90
   101
   105
   94
   99
   Cr
   0.9
   1.0
   0.9
   0.9
   0.9
   TropT
   <0.01
   Glucose
   120
   94
   97
   94
   103
   Other labs: PT / PTT / INR:14.3/25.9/1.2, CK / CKMB /
   Troponin-T:59/3/<0.01, ALT / AST:[**1-25**], Alk Phos / T Bili:64/0.8,
   Differential-Neuts:58.5 %, Lymph:29.8 %, Mono:9.1 %, Eos:2.2 %,
   Albumin:3.6 g/dL, LDH:178 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   63 yo female with history of obstructive lung disease now admitted to
   ICU with GI Bleed and requirement for transfusion in this setting.
   Hosptial course was complicated by Atrial Fibrillation and now with
   significant worsening of Pulmonary Artery Hypertension potentially
   related to worsening peripheral edema, persistent oxygen requirement
   and difficulty with control of atrial arrhythmia.  This is in the
   setting of substantial worsening of pulmonary artery hypertension and
   persistent dilation of atrial structures bilaterally.
   1)Respiratory Failure-There may be a component of reactive airways
   disease although is not impressive on exam throughout and response to
   nebulizers has been limited.
   -Levofloxacin continued throught today--not clearly pneumonia
   -Prednisone x 5 days for persistent wheezing although not heard on exam
   today
   -Diruesis effected independent of diuresis
   -Incentive Spirometry
   -Ambulation today
   -Will need BIPAP O/N and follow up study and examination in sleep
   clinic
   -Continue O2 and will need chronic follow up in sleep clinic and
   pulmonary clinic
   2)Atrial Fibrillation-
   -Stabilized with respiratory distress/GI Bleed controlled
   -No anticoagulation in the setting of GI Bleed
   3)GI Bleed-
   -Stable HCT
   -Will avoid
 ATRIAL FIBRILLATION (AFIB)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-2-29**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes